US04840953
Preparation of 3-ethoxycarbonyl-9-(4-ethoxycarbonylbenzoyl)thio-4H-pyrido[1,2-a]pyrimidin-4-one Ie-56.
To a mixture of 1.47 g (2.4 mmol) of 4-ethoxycarbonylbenzoic acid, 3 drops of DMF and 10 ml of benzene is added 0.52 g (4.4 mmol) of thionyl chloride, and the resultant mixture is refluxed for 3 hours under stirring and concentrated in vacuo to dryness. The residue is dissolved in acetone and mixed with 1.4 g of solid potassium carbonate and then 0.5 g (2 mmol) of 3ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one II-1, and the resultant mixture is vigorously stirred at room temperature for 20 minutes. The reaction mixture is concentrated in vacuo to dryness, and the residue is distributed in chloroformwater. The organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is chromatographed on a column of silica gel, which is eluted with ethyl acetate to give 0.9 g of the titled compound Ie-56.

reactant | 4-ethoxycarbonylbenzoic acid | 2.4 mmol, 1.47 g | C(C)OC(=O)C1=CC=C(C(=O)O)C=C1 | C10H10O4
reactant | thionyl chloride | 4.4 mmol, 0.52 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one | 2 mmol, 0.5 g | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2S | C11H10N2O3S
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-ethoxycarbonyl-9-(4-ethoxycarbonylbenzoyl)thio-4H-pyrido[1,2-a]pyrimidin-4-one | 0.9 g, Yield: about 100% | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2SC(C2=CC=C(C=C2)C(=O)OCC)=O | C21H18N2O6S
